US07183276B2
A mixture of 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]butanoic acid (2.03 g), potassium carbonate (2.76 g), benzimidazole (1.18 g) and N,N-dimethylformamide (30 mL) was stirred at 120° C. for 4 hrs. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration, washed with water and dried to give 4-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]butanoic acid (2.22 g, yield 82%). Recrystallization from tetrahydrofuran-ethanol gave colorless needle crystals. melting point: 199–200° C.

reactant | 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]butanoic acid | 2.03 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)C(CC(=O)O)C | C13H11Cl2NO3
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzimidazole | 1.18 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]butanoic acid | 2.22 g, yield 82% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCCC(=O)O | C20H16ClN3O3
